US08710061B2
A mixture of 2-(2-chlorophenyl)acetic acid (10 g, 58.6 mmol) in EtOH (Volume: 152 ml) was treated with H2SO4 (1.719 ml, 32.2 mmol). The result mixture was refluxed overnight. The heat was removed, and the reaction mixture was concentrated. The resulting oil was dissolved in EtOAc and CAREFULLY treated with aqueous Na2CO3 (3.47 g, 32.8 mmol) (CAUTION: Gas evolution) until the solution remained basic and no further gas evolution was seen. The EtOAc layer was then removed and the aqueous layer was again extracted two times with EtOAc. The combined organic layers were then washed with brine, dried over Na2SO4 and concentrated in vacuo to obtain ethyl 2-(2-chlorophenyl)acetate (11.32 g, 57.0 mmol, 97% yield). LC-MS (M+H)+=199.1. 1H NMR (500 MHz, CD3OD) δ 7.41 (ddd, J=16.8, 5.6, 3.5 Hz, 1H), 7.35 (dd, J=5.5, 3.7 Hz, 1H), 7.28 (dd, J=5.8, 3.7 Hz, 2H), 4.17 (q, J=7.0 Hz, 2H), 3.80 (s, 2H), 1.26 (t, J=7.2 Hz, 3H).

reactant | 2-(2-chlorophenyl)acetic acid | 58.6 mmol, 10 g | ClC1=C(C=CC=C1)CC(=O)O | C8H7ClO2
reactant | H2SO4 | 32.2 mmol, 1.719 ml | OS(=O)(=O)O | H2O4S
reactant | Na2CO3 | 32.8 mmol, 3.47 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOH | 152 ml | CCO | C2H6O
product | ethyl 2-(2-chlorophenyl)acetate | 57.0 mmol, 11.32 g, 97% yield | ClC1=C(C=CC=C1)CC(=O)OCC | C10H11ClO2
